US06656938B2
2-(2-Methoxyethyl)-1-{2-[2-(methylamino)ethoxy]ethyl}-1H-imidazo[4,5-c]quinolin-4-amine (4.22 g, 12.3 mmol) was dissolved in 25 mL of trifluoroacetic acid and treated with PtO2 (0.5 g). The reaction mixture was shaken under H2 (3 Kg/cm2). After 4 d, an additional 0.5 g of PtO2 was added and hydrogenation was continued for an additional 3 d. The reaction was then filtered through Celite and concentrated under reduced pressure to give a yellow oil. The yellow oil was dissolved in 50 mL of H2O and extracted with 50 mL of CHCl3. The organic portion was removed and discarded. The aqueous portion was then made basic (pH ˜12) by addition of 10% NaOH solution. This was then extracted with CHCl3 (6×50 mL) and the combined organic layers were dried over Na2SO4 and concentrated to a brown oil. The brown oil was dissolved in 100 mL of hot MeOH and treated with 1 g of activated charcoal. The hot solution was filtered through Celite and concentrated to dryness. The resulting gummy solid was concentrated several times with Et2O to give 3.19 g of 2-(2-methoxyethyl)-1-{2-[2-(methylamino)ethoxy]ethyl}-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine as an off-white powder.

reactant | 2-(2-Methoxyethyl)-1-{2-[2-(methylamino)ethoxy]ethyl}-1H-imidazo[4,5-c]quinolin-4-amine | 12.3 mmol, 4.22 g | COCCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCOCCNC | C18H25N5O2
solvent | trifluoroacetic acid | 25 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | H2O | 50 mL | O | H2O
catalyst | PtO2 | 0.5 g | O=[Pt]=O
catalyst | PtO2 | 0.5 g | O=[Pt]=O
product | 2-(2-methoxyethyl)-1-{2-[2-(methylamino)ethoxy]ethyl}-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine | 3.19 g | COCCC=1N(C2=C(C(=NC=3CCCCC23)N)N1)CCOCCNC | C18H29N5O2
